US06649600B1
3-(5-{2-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-ethyl}-tetrazol-1-yl)-propionitrile
A solution of N-(2-cyano-ethyl)-3-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionamide (500 mg, 1.06 mmol, 1.0 eq), Ph3P (2.0 eq, 2.13 mmol, 560 mg), TMSN3 (2.0 eq, 2.13 mmol, 245 mg), and DEAD (2.0 eq, 2.13 mmol, 371 mg) in THF (10 ml) was stirred at rt for 24 h. The reaction vessel was re-charged with the reagent cocktail (2.0 eq, 2.13 mmol) and stirring was continued for an additional 24 h. The reaction was quenched by the addition of a 5% aqueous solution of (NH4)2Ce(NO3)6 and extracted with EtOAc. The combined organic extracts were washed with brine, dried over MgSO4, filtered and evaporated in vacuo to afford a viscous orange oil. A portion of the material was purified by preparative LC to afford 20 mg of pure material. MS: 494 (MH+).

reactant | N-(2-cyano-ethyl)-3-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionamide | 1.06 mmol, 500 mg, 1.0 eq | C(#N)CCNC(CCC12CCC(CC1)(CC2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC)=O | C25H36N6O3
reactant | Ph3P | 2.13 mmol, 560 mg, 2.0 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | TMSN3 | 2.13 mmol, 245 mg, 2.0 eq | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | DEAD | 2.13 mmol, 371 mg, 2.0 eq | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(5-{2-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-ethyl}-tetrazol-1-yl)-propionitrile | 20 mg | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)CCC2=NN=NN2CCC#N)=O)CCC | C25H35N9O2
